US08293768B2
Synthesis of 2-(3-benzyl-2-iminoimidazolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 27, making variations as required to replace N-(1-benzylimidazolidin-2-ylidene)cyanamide with 1-benzylimidazolidin-2-imine to react with 2-bromo-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide, the title compound was obtained as a colorless solid in 7% yield: mp 142-144° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, DMSO-d6) δ 8.35 (br s, 1H), 8.16 (t, J=5.9 Hz, 1H), 7.36-7.23 (m, 7H), 7.13-7.07 (m, 2H), 4.45 (s, 2H), 4.29 (d, J=5.9 Hz, 2H), 3.56-3.50 (m, 2H), 3.32-3.26 (m, 2H), 2.41 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 163.1, 162.4, 159.9, 159.0, 152.8, 137.4, 136.5, 129.6, 129.0, 128.1, 127.7, 115.5, 115.2, 47.6, 45.2, 42.3, 40.9, 17.8; MS (ES+) m/z 424.2 (M+1).

reactant | N-(1-benzylimidazolidin-2-ylidene)cyanamide | C(C1=CC=CC=C1)N1C(NCC1)=NC#N | C11H12N4
reactant | 1-benzylimidazolidin-2-imine | C(C1=CC=CC=C1)N1C(NCC1)=N | C10H13N3
reactant | 2-bromo-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | BrC=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F | C12H10BrFN2OS
product | 2-(3-benzyl-2-iminoimidazolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | 7% yield | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F)=N | C22H22FN5OS
